US06790850B1
(a) 6-Amino-2-[[(2-methyl-4-thiazolyl)methyl]thio]-4(3H)-pyrimidinone
4-Amino-6-hydroxy-2-mercaptopyrimidine hydrate (16.1 g) and powdered sodium hydroxide (8.0 g) was stirred in dry DMF (100 ml) for 20 mins. 4-Chloromethyl-2-methylthiazole hydrochloride monohydrate (20 g) was added portionwise and the resulting suspension stirred 18 hrs. The mixture was poured onto water and the solid collected, washed with water and dried to afford the sub-title compound (24.3 g)

reactant | 4-Amino-6-hydroxy-2-mercaptopyrimidine hydrate | 16.1 g | O.NC1=NC(=NC(=C1)O)S
reactant | sodium hydroxide | 8.0 g | [OH-].[Na+]
reactant | 4-Chloromethyl-2-methylthiazole hydrochloride monohydrate | 20 g | O.Cl.ClCC=1N=C(SC1)C
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 6-Amino-2-[[(2-methyl-4-thiazolyl)methyl]thio]-4(3H)-pyrimidinone | 24.3 g | NC1=CC(NC(=N1)SCC=1N=C(SC1)C)=O | C9H10N4OS2
